Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left-sided chest pain
 
Major Surgical or Invasive Procedure:
___: s/p left ___ pigtail drain placement (removed ___

 
History of Present Illness:
___ y/o male with a history of HTN s/p fall with subsequent rib 
fractures on ___ presenting to the hospital with worsening of 
left sided rib fractures for 1 day. Patient refers feeling ok 
for the last week, not needing any narcotics medication for this 
period of time. The patient refers the chest pain came back last 
night, without any pre inciting events to his knowledge, even 
though he refers sneezing last night.   He refers progressive 
pain since then ___ on the left side that is worse with deep 
inspiration.  He denies any other complaints.

 
Past Medical History:
PMH:
hypertension, BPH, hearing loss  

PSH:
Rhinoplasty
 
Social History:
___
Family History:
reviewed and negative
 
Physical Exam:
Admission Physical Exam:

Vitals: 98.7  96  165/89  16  93% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:

Vitals:  98.6  87  147/92  18  92% RA
Gen: A&Ox3, well-appearing male, in NAD
HEENT: No scleral icterus, mucus membranes moist
Pulm: CTAB, no w/r/r; increased TTP along L lateral chest wall, 
no crepitus; prior pigtail insertion site clean/dry/intact
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

 
Pertinent Results:
==============
ADMISSION LABS
==============

___ 12:30PM BLOOD WBC-13.4* RBC-3.74* Hgb-11.6* Hct-34.4* 
MCV-92 MCH-31.0 MCHC-33.7 RDW-13.1 RDWSD-43.8 Plt ___

___ 12:30PM BLOOD ___ PTT-28.8 ___

___ 12:30PM BLOOD Glucose-91 UreaN-27* Creat-1.2 Na-143 
K-4.3 Cl-105 HCO3-25 AnGap-17

___ 05:21PM BLOOD pH-7.40 Comment-PLEURAL FL
 

=============
MICROBIOLOGY
=============

___ 4:45 pm PLEURAL FLUID

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
 

========
IMAGING
========

___hest:
IMPRESSION: 
    
1. Interval displacement of left lateral fourth, fifth, and 
sixth rib 
fractures with re-demonstration of displaced seventh and eighth 
lateral rib fractures. 
2. Moderate to large minimal complex pleural effusion with 
adjacent 
atelectasis and minimal right pleural effusion. 

___ CXR (post-pigtail placement):
IMPRESSION:  
  
Decreased size of left pleural effusion, now small, status post 
left basilar chest tube placement.  No pneumothorax.  Bibasilar 
atelectasis with unchanged  trace right pleural effusion.  
Multiple left-sided rib fractures re-demonstrated. 

 
___ AM CXR:
IMPRESSION:  
  
Left pigtail catheter is in place.  Heart size and mediastinum 
are stable.  Lungs are essentially clear.  No appreciable 
pleural effusion.  No pneumothorax. 

___ ___ CXR (post-pull film)
IMPRESSION:  
  
Stable small left pneumothorax and small bilateral pleural 
effusions 
 

==============
DISCHARGE LABS
==============

___ 07:04AM BLOOD WBC-14.0* RBC-3.91* Hgb-11.8* Hct-35.7* 
MCV-91 MCH-30.2 MCHC-33.1 RDW-12.8 RDWSD-42.0 Plt ___

___ 07:04AM BLOOD Glucose-101* UreaN-21* Creat-1.0 Na-142 
K-4.7 Cl-105 HCO3-24 AnGap-18

___ 07:04AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.2
 
Brief Hospital Course:
Mr. ___ was admitted to the Acute Care Surgery Service under 
the care of Dr. ___ for management of left pleural 
effusion following traumatic fall and rib fractures, felt to be 
most likely traumatic hemothorax. Upon admission, Interventional 
Pulmonology was consulted and placed a ___ pigtail catheter 
into the left chest with removal of dark sanguinous fluid. 
Following adequate initial drainage, the patient endorsed 
improved breathing and chest pain. His chest tube remained to 
wall suction for an additional day and output was closely 
monitored. On the morning of HD2, a CXR demonstrated adequate 
resolution of pleural effusion, thus the decision was made to 
remove his chest tube with agreement from Interventional 
Pulmonology. A repeat CXR obtained 4 hours after chest tube 
removal showed stable residual fluid and the patient remained 
stable from a respiratory standpoint.

On the evening of HD2, the patient was tolerating a regular 
diet, voiding and ambulating without difficulty, he was 
breathing comfortably on room air with oxygen saturations in the 
low ___, his pain was well controlled with PO pain medications, 
his prior chest tube site was clean, dry and intact and he 
remaind afebrile and hemodynamically stable. He was thus deemed 
ready for discharge home with ___ services and is scheduled for 
follow up appointment and repeat CXR with Interventional 
Pulmonology in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 1 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Verapamil SR 360 mg PO Q24H 
4. Nasonex (mometasone) 50 mcg/actuation nasal DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 4000mg in 24 hours.  
2.  Ibuprofen 400-800 mg PO Q6H:PRN Pain - Mild  
3.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drink or drive while taking narcotics. 
RX *tramadol 50 mg ___ tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0 
4.  ALPRAZolam 1 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  Lisinopril 10 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Nasonex (mometasone) 50 mcg/actuation nasal DAILY  
10.  Verapamil SR 360 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
traumatic hemothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
for management of your increased left sided chest pain in 
association with your left sided rib fractures. Your imaging 
demonstrated fluid collecting around your lung (pleural 
effusion) that was causing your increasing pain. This fluid was 
likely a result of your recent rib fractures and has now been 
effectively drained by Interventional Pulmonology. Your chest 
tube has been removed, your chest xray shows no fluid 
reaccumulation, and you are now ready to be discharged home. 
Please see below for post-discharge instructions:

* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain (ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___